US04496739
A mixture of cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid anhydride (16.8 g), benzene (230 ml) and isopropanol (5.50 g) was refluxed for 10 hours. A part (about 150 ml) of the reaction mixture was concentrated under reduced pressure. The residue was stirred with n-hexane (30 ml) at room temperature for 5 hours. Crystals produced were filtered and dried to yield racemic cis-1,3-dibenzyl-5-isopropoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid (9.61 g). M.P., 108°-109° C.

reactant | cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid anhydride | 16.8 g | C(C1=CC=CC=C1)N1C(N([C@H]2[C@@H]1C(=O)OC2=O)CC2=CC=CC=C2)=O | C19H16N2O4
reactant | benzene | 230 ml | C1=CC=CC=C1 | C6H6
reactant | isopropanol | 5.50 g | C(C)(C)O | C3H8O
product | racemic cis-1,3-dibenzyl-5-isopropoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid | 9.61 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)OC(C)C)C(=O)O)CC1=CC=CC=C1)=O | C22H24N2O5
